US07741327B2
To a stirred mixture of 2-bromo-phenol (9.02 g, 0.052 mol) and ethyl-2-butynoate (11.7 g, 0.104 mol) in tetrahydrofuran (50 mL) was added 1,8-diazabicyclo[5.4.0]undec-7-ene (8.05 g, 0.053 mol) slowly. After addition was complete the mixture was stirred at reflux overnight. Upon completion of the reaction the tetrahydrofuran was removed in vacuo and the residue was diluted in diethyl ether and washed first with 1N aqueous hydrochloric acid, then 10% aqueous sodium hydroxide solution, a saturated sodium chloride solution and dried over magnesium sulfate. The mixture was filtered and evaporated and the residue dried under high vacuum which afforded (E)-3-(2-bromo-phenoxy)-but-2-enoic acid ethyl ester as a yellow oil (10.0 g, 67%) and used without further purification.

reactant | 2-bromo-phenol | 0.052 mol, 9.02 g | BrC1=C(C=CC=C1)O | C6H5BrO
reactant | ethyl-2-butynoate | 0.104 mol, 11.7 g | C(C)OC(C#CC)=O | C6H8O2
reactant | 1,8-diazabicyclo[5.4.0]undec-7-ene | 0.053 mol, 8.05 g | N12CCCCCC2=NCCC1 | C9H16N2
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
product | (E)-3-(2-bromo-phenoxy)-but-2-enoic acid ethyl ester | 10.0 g, 67% | C(C)OC(\C=C(/C)\OC1=C(C=CC=C1)Br)=O | C12H13BrO3
